US03956297
3-methyl-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine is dissolved in 88% formic acid, treated with 37% aqueous formalin solution and heated for 24 hours, to give 3,9-dimethyl-2-hydroxymethyl-9H-dibenzo [b,f]-imidazo[1,2-d][1,4]diazepine.

reactant | 3-methyl-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine | CC1=CN=C2N1C1=C(NC3=C2C=CC=C3)C=CC=C1 | C16H13N3
reactant | formalin | C=O | CH2O
reactant | formic acid | C(=O)O | CH2O2
product | 3,9-dimethyl-2-hydroxymethyl-9H-dibenzo [b,f]-imidazo[1,2-d][1,4]diazepine | CC1=C(N=C2N1C1=C(N(C3=C2C=CC=C3)C)C=CC=C1)CO | C18H17N3O
